US07745451B2
C. (6-tert-Butyl-pyridin-3-yl)-[6-(3-chloro-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-yl]-amine
The title compound was prepared according to the procedure given for Compound 1C by reacting (5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-yl)-(6-tert-butyl-pyridin-3-yl)-amine with 2,3-dichloropyridine to give the desired compound as an off-white powder.

reactant | (5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-yl)-(6-tert-butyl-pyridin-3-yl)-amine | N1=CN=C(C2=C1CCNC2)NC=2C=NC(=CC2)C(C)(C)C | C16H21N5
reactant | 2,3-dichloropyridine | ClC1=NC=CC=C1Cl | C5H3Cl2N
product | (6-tert-Butyl-pyridin-3-yl)-[6-(3-chloro-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-yl]-amine | C(C)(C)(C)C1=CC=C(C=N1)NC=1C2=C(N=CN1)CCN(C2)C2=NC=CC=C2Cl | C21H23ClN6
